* PEX produced using /foss/tools/sak/sak-pex.sh with m=3 and s=1 (extresist threshold=0 mOhm, minres=1 mOhm, mindelay=0 ps)
* NGSPICE file created from cml_data_restorer_2p5_calibrated_pex.ext - technology: gf180mcuD

.subckt cml_data_restorer_2p5_calibrated_pex IN_P IN_N VBIAS VDD VSS OUT_P OUT_N
X0 OUT_P.t0 a_n1000_2678.t3 a_n852_8800.t2 VSS.t2 nfet_03v3 ad=4.4p pd=20.88u as=2.6p ps=10.52u w=10u l=0.28u
X1 VSS.t12 VBIAS.t5 a_n852_8800.t6 VSS.t11 nfet_03v3 ad=3.12p pd=12.52u as=3.12p ps=12.52u w=12u l=0.28u
X2 a_n852_8800.t7 VBIAS.t4 VSS.t14 VSS.t13 nfet_03v3 ad=5.28p pd=24.88u as=3.12p ps=12.52u w=12u l=0.28u
X3 VDD.t1 a_600_2678.t0 VSS.t5 ppolyf_u r_width=2u r_length=4.2u
X4 a_n852_8800.t1 a_600_2678.t4 OUT_N.t1 VSS.t1 nfet_03v3 ad=2.6p pd=10.52u as=4.4p ps=20.88u w=10u l=0.28u
X5 VSS.t8 VBIAS.t7 a_n852_8800.t4 VSS.t6 nfet_03v3 ad=3.12p pd=12.52u as=5.28p ps=24.88u w=12u l=0.28u
X6 VDD.t2 OUT_P.t2 VSS.t4 ppolyf_u r_width=2u r_length=4.2u
X7 VSS.t17 VBIAS.t1 a_n852_n600.t2 VSS.t11 nfet_03v3 ad=3.12p pd=12.52u as=3.12p ps=12.52u w=12u l=0.28u
X8 a_n852_8800.t5 VBIAS.t6 VSS.t10 VSS.t9 nfet_03v3 ad=3.12p pd=12.52u as=3.12p ps=12.52u w=12u l=0.28u
X9 VDD.t0 a_n1000_2678.t0 VSS.t4 ppolyf_u r_width=2u r_length=4.2u
X10 VDD.t3 OUT_N.t2 VSS.t5 ppolyf_u r_width=2u r_length=4.2u
X11 a_n852_n600.t7 IN_P.t1 a_n1000_2678.t1 VSS.t3 nfet_03v3 ad=2.6p pd=10.52u as=4.4p ps=20.88u w=10u l=0.28u
X12 a_600_2678.t2 IN_N.t0 a_n852_n600.t4 VSS.t0 nfet_03v3 ad=4.4p pd=20.88u as=2.6p ps=10.52u w=10u l=0.28u
X13 a_n852_n600.t1 VBIAS.t2 VSS.t16 VSS.t9 nfet_03v3 ad=3.12p pd=12.52u as=3.12p ps=12.52u w=12u l=0.28u
X14 a_n1000_2678.t2 IN_P.t0 a_n852_n600.t6 VSS.t2 nfet_03v3 ad=4.4p pd=20.88u as=2.6p ps=10.52u w=10u l=0.28u
X15 a_n852_n600.t3 VBIAS.t0 VSS.t15 VSS.t13 nfet_03v3 ad=5.28p pd=24.88u as=3.12p ps=12.52u w=12u l=0.28u
X16 a_n852_8800.t3 a_n1000_2678.t4 OUT_P.t1 VSS.t3 nfet_03v3 ad=2.6p pd=10.52u as=4.4p ps=20.88u w=10u l=0.28u
X17 a_n852_n600.t5 IN_N.t1 a_600_2678.t1 VSS.t1 nfet_03v3 ad=2.6p pd=10.52u as=4.4p ps=20.88u w=10u l=0.28u
X18 OUT_N.t0 a_600_2678.t3 a_n852_8800.t0 VSS.t0 nfet_03v3 ad=4.4p pd=20.88u as=2.6p ps=10.52u w=10u l=0.28u
X19 VSS.t7 VBIAS.t3 a_n852_n600.t0 VSS.t6 nfet_03v3 ad=3.12p pd=12.52u as=5.28p ps=24.88u w=12u l=0.28u
R0 IN_N.n0 IN_N.t1 139.689
R1 IN_N.n0 IN_N.t0 139.689
R2 IN_N IN_N.n0 25.9192
R3 IN_P.n0 IN_P.t1 139.689
R4 IN_P.n0 IN_P.t0 139.689
R5 IN_P IN_P.n0 25.9192
R6 VBIAS.n8 VBIAS.t3 165.774
R7 VBIAS.n5 VBIAS.t0 165.774
R8 VBIAS.n0 VBIAS.t4 165.774
R9 VBIAS.n3 VBIAS.t7 165.774
R10 VBIAS.n6 VBIAS.t1 161.317
R11 VBIAS.n7 VBIAS.t2 161.317
R12 VBIAS.n1 VBIAS.t5 161.317
R13 VBIAS.n2 VBIAS.t6 161.317
R14 VBIAS.n10 VBIAS.n4 19.0663
R15 VBIAS.n10 VBIAS.n9 13.5005
R16 VBIAS.n7 VBIAS.n6 11.6805
R17 VBIAS.n2 VBIAS.n1 11.6805
R18 VBIAS.n9 VBIAS.n5 7.10487
R19 VBIAS.n9 VBIAS.n8 7.10487
R20 VBIAS.n4 VBIAS.n0 7.10487
R21 VBIAS.n4 VBIAS.n3 7.10487
R22 VBIAS.n6 VBIAS.n5 4.42851
R23 VBIAS.n8 VBIAS.n7 4.42851
R24 VBIAS.n1 VBIAS.n0 4.42851
R25 VBIAS.n3 VBIAS.n2 4.42851
R26 VBIAS VBIAS.n10 0.272868
R27 OUT_N OUT_N.t2 12.645
R28 OUT_N.n0 OUT_N.t0 6.0613
R29 OUT_N.n0 OUT_N.t1 6.0613
R30 OUT_N OUT_N.n0 2.70032
R31 OUT_P OUT_P.t2 12.645
R32 OUT_P.n0 OUT_P.t0 6.0613
R33 OUT_P.n0 OUT_P.t1 6.0613
R34 OUT_P OUT_P.n0 2.70032
R35 VDD.n1 VDD.t2 21.9006
R36 VDD.n0 VDD.t0 21.9006
R37 VDD.n1 VDD.t3 21.545
R38 VDD.n0 VDD.t1 21.545
R39 VDD VDD.n0 2.30717
R40 VDD VDD.n1 0.218278
R41 VSS.n136 VSS.n25 160.754
R42 VSS.n152 VSS.n5 139.786
R43 VSS.n55 VSS.n25 112.528
R44 VSS.n152 VSS.n151 90.8607
R45 VSS.n138 VSS.n20 59.5005
R46 VSS.n58 VSS.n22 59.5005
R47 VSS.n149 VSS.n16 52.5005
R48 VSS.n82 VSS.n81 52.5005
R49 VSS.n86 VSS.n85 52.5005
R50 VSS.n43 VSS.n21 52.5005
R51 VSS.n45 VSS.n23 52.5005
R52 VSS.n48 VSS.n23 52.5005
R53 VSS.n50 VSS.n27 52.5005
R54 VSS.n123 VSS.n22 52.5005
R55 VSS.n127 VSS.n126 52.5005
R56 VSS.n129 VSS.n30 52.5005
R57 VSS.n31 VSS.n30 52.5005
R58 VSS.n111 VSS.n110 52.5005
R59 VSS.n107 VSS.n106 52.5005
R60 VSS.n103 VSS.n102 52.5005
R61 VSS.t3 VSS.n40 48.2263
R62 VSS.t1 VSS.n72 48.2263
R63 VSS.n40 VSS.n5 42.6349
R64 VSS.n153 VSS.n4 42.0005
R65 VSS.n54 VSS.n27 42.0005
R66 VSS.n113 VSS.n7 42.0005
R67 VSS.n134 VSS.n32 42.0005
R68 VSS.t6 VSS.n37 35.6457
R69 VSS.n72 VSS.t13 35.6457
R70 VSS.n153 VSS.n3 35.0005
R71 VSS.n39 VSS.n3 35.0005
R72 VSS.n70 VSS.n39 35.0005
R73 VSS.n70 VSS.n57 35.0005
R74 VSS.n57 VSS.n20 35.0005
R75 VSS.n42 VSS.n8 35.0005
R76 VSS.n93 VSS.n42 35.0005
R77 VSS.n93 VSS.n41 35.0005
R78 VSS.n77 VSS.n41 35.0005
R79 VSS.n77 VSS.n54 35.0005
R80 VSS.n62 VSS.n7 35.0005
R81 VSS.n62 VSS.n38 35.0005
R82 VSS.n66 VSS.n38 35.0005
R83 VSS.n66 VSS.n56 35.0005
R84 VSS.n58 VSS.n56 35.0005
R85 VSS.n96 VSS.n6 35.0005
R86 VSS.n96 VSS.n95 35.0005
R87 VSS.n95 VSS.n36 35.0005
R88 VSS.n75 VSS.n36 35.0005
R89 VSS.n75 VSS.n32 35.0005
R90 VSS.t9 VSS.t6 27.9575
R91 VSS.t11 VSS.t9 27.9575
R92 VSS.n94 VSS.n37 27.2586
R93 VSS.n76 VSS.n55 27.2586
R94 VSS.n88 VSS.n8 24.5005
R95 VSS.n99 VSS.n6 24.5005
R96 VSS.n94 VSS.t2 20.9682
R97 VSS.n71 VSS.t11 20.9682
R98 VSS.n76 VSS.t0 20.9682
R99 VSS VSS.n0 19.2672
R100 VSS VSS.n155 18.8227
R101 VSS.t4 VSS.t3 13.979
R102 VSS.t2 VSS.t4 13.979
R103 VSS.t5 VSS.t1 13.979
R104 VSS.t0 VSS.t5 13.979
R105 VSS.n147 VSS.n146 10.2705
R106 VSS.n122 VSS.n121 10.2705
R107 VSS.n116 VSS.n115 10.2705
R108 VSS.n141 VSS.n140 10.2705
R109 VSS.t13 VSS.n71 6.98975
R110 VSS.n120 VSS.n117 6.5388
R111 VSS.n119 VSS.n118 6.5388
R112 VSS.n143 VSS.n142 6.5388
R113 VSS.n145 VSS.n144 6.5388
R114 VSS.n89 VSS.n88 5.2005
R115 VSS.n87 VSS.n86 5.2005
R116 VSS.n85 VSS.n84 5.2005
R117 VSS.n83 VSS.n82 5.2005
R118 VSS.n81 VSS.n80 5.2005
R119 VSS.n17 VSS.n16 5.2005
R120 VSS.n149 VSS.n148 5.2005
R121 VSS.n4 VSS.n1 5.2005
R122 VSS.n54 VSS.n25 5.2005
R123 VSS.n54 VSS.n53 5.2005
R124 VSS.n77 VSS.n76 5.2005
R125 VSS.n78 VSS.n77 5.2005
R126 VSS.n71 VSS.n41 5.2005
R127 VSS.n79 VSS.n41 5.2005
R128 VSS.n94 VSS.n93 5.2005
R129 VSS.n93 VSS.n92 5.2005
R130 VSS.n42 VSS.n5 5.2005
R131 VSS.n91 VSS.n42 5.2005
R132 VSS.n152 VSS.n8 5.2005
R133 VSS.n90 VSS.n8 5.2005
R134 VSS.n139 VSS.n138 5.2005
R135 VSS.n21 VSS.n18 5.2005
R136 VSS.n44 VSS.n43 5.2005
R137 VSS.n46 VSS.n45 5.2005
R138 VSS.n136 VSS.n23 5.2005
R139 VSS.n47 VSS.n23 5.2005
R140 VSS.n49 VSS.n48 5.2005
R141 VSS.n51 VSS.n50 5.2005
R142 VSS.n136 VSS.n27 5.2005
R143 VSS.n52 VSS.n27 5.2005
R144 VSS.n25 VSS.n20 5.2005
R145 VSS.n20 VSS.n19 5.2005
R146 VSS.n76 VSS.n57 5.2005
R147 VSS.n67 VSS.n57 5.2005
R148 VSS.n71 VSS.n70 5.2005
R149 VSS.n70 VSS.n69 5.2005
R150 VSS.n94 VSS.n39 5.2005
R151 VSS.n68 VSS.n39 5.2005
R152 VSS.n5 VSS.n3 5.2005
R153 VSS.n3 VSS.n2 5.2005
R154 VSS.n153 VSS.n152 5.2005
R155 VSS.n154 VSS.n153 5.2005
R156 VSS.n152 VSS.n6 5.2005
R157 VSS.n98 VSS.n6 5.2005
R158 VSS.n96 VSS.n5 5.2005
R159 VSS.n97 VSS.n96 5.2005
R160 VSS.n95 VSS.n94 5.2005
R161 VSS.n95 VSS.n35 5.2005
R162 VSS.n71 VSS.n36 5.2005
R163 VSS.n73 VSS.n36 5.2005
R164 VSS.n76 VSS.n75 5.2005
R165 VSS.n75 VSS.n74 5.2005
R166 VSS.n32 VSS.n25 5.2005
R167 VSS.n33 VSS.n32 5.2005
R168 VSS.n58 VSS.n25 5.2005
R169 VSS.n59 VSS.n58 5.2005
R170 VSS.n76 VSS.n56 5.2005
R171 VSS.n60 VSS.n56 5.2005
R172 VSS.n71 VSS.n66 5.2005
R173 VSS.n66 VSS.n65 5.2005
R174 VSS.n94 VSS.n38 5.2005
R175 VSS.n64 VSS.n38 5.2005
R176 VSS.n62 VSS.n5 5.2005
R177 VSS.n63 VSS.n62 5.2005
R178 VSS.n152 VSS.n7 5.2005
R179 VSS.n61 VSS.n7 5.2005
R180 VSS.n100 VSS.n99 5.2005
R181 VSS.n102 VSS.n101 5.2005
R182 VSS.n104 VSS.n103 5.2005
R183 VSS.n106 VSS.n105 5.2005
R184 VSS.n108 VSS.n107 5.2005
R185 VSS.n110 VSS.n109 5.2005
R186 VSS.n112 VSS.n111 5.2005
R187 VSS.n114 VSS.n113 5.2005
R188 VSS.n136 VSS.n22 5.2005
R189 VSS.n34 VSS.n22 5.2005
R190 VSS.n124 VSS.n123 5.2005
R191 VSS.n126 VSS.n125 5.2005
R192 VSS.n128 VSS.n127 5.2005
R193 VSS.n130 VSS.n129 5.2005
R194 VSS.n136 VSS.n30 5.2005
R195 VSS.n131 VSS.n30 5.2005
R196 VSS.n132 VSS.n31 5.2005
R197 VSS.n134 VSS.n133 5.2005
R198 VSS.n119 VSS.n116 4.5005
R199 VSS.n121 VSS.n120 4.5005
R200 VSS.n146 VSS.n145 4.5005
R201 VSS.n143 VSS.n141 4.5005
R202 VSS.n88 VSS.n13 4.34122
R203 VSS.n85 VSS.n14 4.34122
R204 VSS.n81 VSS.n15 4.34122
R205 VSS.n150 VSS.n149 4.34122
R206 VSS.n138 VSS.n137 4.34122
R207 VSS.n45 VSS.n24 4.34122
R208 VSS.n50 VSS.n26 4.34122
R209 VSS.n150 VSS.n4 4.34122
R210 VSS.n16 VSS.n15 4.34122
R211 VSS.n82 VSS.n14 4.34122
R212 VSS.n86 VSS.n13 4.34122
R213 VSS.n137 VSS.n21 4.34122
R214 VSS.n43 VSS.n24 4.34122
R215 VSS.n48 VSS.n26 4.34122
R216 VSS.n99 VSS.n9 4.34122
R217 VSS.n103 VSS.n10 4.34122
R218 VSS.n107 VSS.n11 4.34122
R219 VSS.n111 VSS.n12 4.34122
R220 VSS.n126 VSS.n28 4.34122
R221 VSS.n129 VSS.n29 4.34122
R222 VSS.n135 VSS.n31 4.34122
R223 VSS.n123 VSS.n28 4.34122
R224 VSS.n127 VSS.n29 4.34122
R225 VSS.n135 VSS.n134 4.34122
R226 VSS.n113 VSS.n12 4.34122
R227 VSS.n110 VSS.n11 4.34122
R228 VSS.n106 VSS.n10 4.34122
R229 VSS.n102 VSS.n9 4.34122
R230 VSS.n72 VSS.n55 1.75086
R231 VSS.n40 VSS.n37 1.75086
R232 VSS.n139 VSS.n19 0.7655
R233 VSS.n59 VSS.n34 0.7655
R234 VSS.n148 VSS.n17 0.6755
R235 VSS.n80 VSS.n17 0.6755
R236 VSS.n83 VSS.n80 0.6755
R237 VSS.n84 VSS.n83 0.6755
R238 VSS.n87 VSS.n84 0.6755
R239 VSS.n89 VSS.n87 0.6755
R240 VSS.n44 VSS.n18 0.6755
R241 VSS.n46 VSS.n44 0.6755
R242 VSS.n47 VSS.n46 0.6755
R243 VSS.n49 VSS.n47 0.6755
R244 VSS.n51 VSS.n49 0.6755
R245 VSS.n52 VSS.n51 0.6755
R246 VSS.n125 VSS.n124 0.6755
R247 VSS.n128 VSS.n125 0.6755
R248 VSS.n130 VSS.n128 0.6755
R249 VSS.n131 VSS.n130 0.6755
R250 VSS.n132 VSS.n131 0.6755
R251 VSS.n133 VSS.n132 0.6755
R252 VSS.n112 VSS.n109 0.6755
R253 VSS.n109 VSS.n108 0.6755
R254 VSS.n108 VSS.n105 0.6755
R255 VSS.n105 VSS.n104 0.6755
R256 VSS.n104 VSS.n101 0.6755
R257 VSS.n101 VSS.n100 0.6755
R258 VSS.n53 VSS.n52 0.5405
R259 VSS.n133 VSS.n33 0.5405
R260 VSS.n91 VSS.n90 0.4505
R261 VSS.n92 VSS.n91 0.4505
R262 VSS.n92 VSS.n79 0.4505
R263 VSS.n79 VSS.n78 0.4505
R264 VSS.n78 VSS.n53 0.4505
R265 VSS.n154 VSS.n2 0.4505
R266 VSS.n68 VSS.n2 0.4505
R267 VSS.n69 VSS.n68 0.4505
R268 VSS.n69 VSS.n67 0.4505
R269 VSS.n67 VSS.n19 0.4505
R270 VSS.n63 VSS.n61 0.4505
R271 VSS.n64 VSS.n63 0.4505
R272 VSS.n65 VSS.n64 0.4505
R273 VSS.n65 VSS.n60 0.4505
R274 VSS.n60 VSS.n59 0.4505
R275 VSS.n98 VSS.n97 0.4505
R276 VSS.n97 VSS.n35 0.4505
R277 VSS.n73 VSS.n35 0.4505
R278 VSS.n74 VSS.n73 0.4505
R279 VSS.n74 VSS.n33 0.4505
R280 VSS.n151 VSS.n13 0.430889
R281 VSS.n151 VSS.n14 0.430889
R282 VSS.n151 VSS.n15 0.430889
R283 VSS.n151 VSS.n150 0.430889
R284 VSS.n137 VSS.n136 0.430889
R285 VSS.n136 VSS.n24 0.430889
R286 VSS.n136 VSS.n26 0.430889
R287 VSS.n151 VSS.n9 0.430889
R288 VSS.n151 VSS.n10 0.430889
R289 VSS.n151 VSS.n11 0.430889
R290 VSS.n151 VSS.n12 0.430889
R291 VSS.n136 VSS.n28 0.430889
R292 VSS.n136 VSS.n29 0.430889
R293 VSS.n136 VSS.n135 0.430889
R294 VSS.n155 VSS.n154 0.37175
R295 VSS.n61 VSS.n0 0.37175
R296 VSS.n147 VSS.n1 0.366125
R297 VSS.n140 VSS.n139 0.366125
R298 VSS.n122 VSS.n34 0.366125
R299 VSS.n115 VSS.n114 0.366125
R300 VSS.n90 VSS.n89 0.3155
R301 VSS.n100 VSS.n98 0.3155
R302 VSS.n148 VSS.n147 0.309875
R303 VSS.n140 VSS.n18 0.309875
R304 VSS.n124 VSS.n122 0.309875
R305 VSS.n115 VSS.n112 0.309875
R306 VSS.n120 VSS.n119 0.189974
R307 VSS.n145 VSS.n143 0.189974
R308 VSS.n155 VSS.n1 0.16925
R309 VSS.n114 VSS.n0 0.16925
R310 VSS.n121 VSS.n116 0.1605
R311 VSS.n146 VSS.n141 0.1605
R312 VSS.n117 VSS.t12 0.137
R313 VSS.n117 VSS.t14 0.137
R314 VSS.n118 VSS.t8 0.137
R315 VSS.n118 VSS.t10 0.137
R316 VSS.n142 VSS.t17 0.137
R317 VSS.n142 VSS.t15 0.137
R318 VSS.n144 VSS.t7 0.137
R319 VSS.n144 VSS.t16 0.137
R320 a_n852_n600.n5 a_n852_n600.n3 10.7042
R321 a_n852_n600.n5 a_n852_n600.n4 10.7042
R322 a_n852_n600.t3 a_n852_n600.n7 6.77
R323 a_n852_n600.n2 a_n852_n600.t0 6.6753
R324 a_n852_n600.n1 a_n852_n600.n0 6.5388
R325 a_n852_n600.n6 a_n852_n600.n2 4.63668
R326 a_n852_n600.n7 a_n852_n600.n6 2.23814
R327 a_n852_n600.n6 a_n852_n600.n5 0.5055
R328 a_n852_n600.n2 a_n852_n600.n1 0.189974
R329 a_n852_n600.n3 a_n852_n600.t5 0.1643
R330 a_n852_n600.n3 a_n852_n600.t4 0.1643
R331 a_n852_n600.n4 a_n852_n600.t7 0.1643
R332 a_n852_n600.n4 a_n852_n600.t6 0.1643
R333 a_n852_n600.n0 a_n852_n600.t1 0.137
R334 a_n852_n600.n0 a_n852_n600.t2 0.137
R335 a_n852_n600.n7 a_n852_n600.n1 0.0924286
R336 a_n852_8800.n3 a_n852_8800.n1 10.7042
R337 a_n852_8800.n3 a_n852_8800.n2 10.7042
R338 a_n852_8800.n0 a_n852_8800.t7 6.77
R339 a_n852_8800.n5 a_n852_8800.t4 6.6753
R340 a_n852_8800.n7 a_n852_8800.n6 6.5388
R341 a_n852_8800.n5 a_n852_8800.n4 4.63668
R342 a_n852_8800.n4 a_n852_8800.n0 2.23814
R343 a_n852_8800.n4 a_n852_8800.n3 0.5055
R344 a_n852_8800.n6 a_n852_8800.n5 0.189974
R345 a_n852_8800.n1 a_n852_8800.t1 0.1643
R346 a_n852_8800.n1 a_n852_8800.t0 0.1643
R347 a_n852_8800.n2 a_n852_8800.t3 0.1643
R348 a_n852_8800.n2 a_n852_8800.t2 0.1643
R349 a_n852_8800.n7 a_n852_8800.t5 0.137
R350 a_n852_8800.t6 a_n852_8800.n7 0.137
R351 a_n852_8800.n6 a_n852_8800.n0 0.0924286
R352 a_600_2678.n0 a_600_2678.t4 139.689
R353 a_600_2678.n0 a_600_2678.t3 139.689
R354 a_600_2678.n1 a_600_2678.n0 37.2961
R355 a_600_2678.n1 a_600_2678.t0 12.557
R356 a_600_2678.n2 a_600_2678.t1 6.0613
R357 a_600_2678.t2 a_600_2678.n2 6.0613
R358 a_600_2678.n2 a_600_2678.n1 2.78832
R359 a_n1000_2678.n0 a_n1000_2678.t4 139.689
R360 a_n1000_2678.n0 a_n1000_2678.t3 139.689
R361 a_n1000_2678.n1 a_n1000_2678.n0 37.2961
R362 a_n1000_2678.n1 a_n1000_2678.t0 12.557
R363 a_n1000_2678.n2 a_n1000_2678.t1 6.0613
R364 a_n1000_2678.t2 a_n1000_2678.n2 6.0613
R365 a_n1000_2678.n2 a_n1000_2678.n1 2.78832
C0 IN_N VBIAS 0.11346f
C1 OUT_N VDD 0.10828f
C2 OUT_N OUT_P 0.17718f
C3 OUT_P VDD 0.0484f
C4 VBIAS VDD 0.20996f
C5 VBIAS IN_P 0.11346f
C6 IN_N IN_P 0.27707f
C7 IN_N VSS 2.18997f
C8 IN_P VSS 2.18997f
C9 VBIAS VSS 6.02921f
C10 OUT_N VSS 2.97507f
C11 OUT_P VSS 2.9539f
C12 VDD VSS 9.69036f
C13 a_n1000_2678.t1 VSS 0.4348f
C14 a_n1000_2678.t0 VSS 0.11269f
C15 a_n1000_2678.n0 VSS 0.61952f
C16 a_n1000_2678.n1 VSS 1.97919f
C17 a_n1000_2678.n2 VSS 0.20682f
C18 a_n1000_2678.t2 VSS 0.4348f
C19 a_600_2678.t1 VSS 0.48051f
C20 a_600_2678.t0 VSS 0.12613f
C21 a_600_2678.n0 VSS 0.69344f
C22 a_600_2678.n1 VSS 2.21533f
C23 a_600_2678.n2 VSS 0.2315f
C24 a_600_2678.t2 VSS 0.48051f
C25 a_n852_8800.t5 VSS 0.18581f
C26 a_n852_8800.t7 VSS 0.72452f
C27 a_n852_8800.n0 VSS 0.12486f
C28 a_n852_8800.t0 VSS 0.18665f
C29 a_n852_8800.t1 VSS 0.18665f
C30 a_n852_8800.n1 VSS 0.46081f
C31 a_n852_8800.t2 VSS 0.17882f
C32 a_n852_8800.t3 VSS 0.17882f
C33 a_n852_8800.n2 VSS 0.46081f
C34 a_n852_8800.n3 VSS 0.96513f
C35 a_n852_8800.n4 VSS 0.42636f
C36 a_n852_8800.t4 VSS 0.72275f
C37 a_n852_8800.n5 VSS 0.12663f
C38 a_n852_8800.n6 VSS 0.14137f
C39 a_n852_8800.n7 VSS 0.49532f
C40 a_n852_8800.t6 VSS 0.18581f
C41 a_n852_n600.t2 VSS 0.20011f
C42 a_n852_n600.t1 VSS 0.20011f
C43 a_n852_n600.n0 VSS 0.54749f
C44 a_n852_n600.n1 VSS 0.15626f
C45 a_n852_n600.t0 VSS 0.79355f
C46 a_n852_n600.n2 VSS 0.13997f
C47 a_n852_n600.t4 VSS 0.17683f
C48 a_n852_n600.t5 VSS 0.17683f
C49 a_n852_n600.n3 VSS 0.50935f
C50 a_n852_n600.t6 VSS 0.17683f
C51 a_n852_n600.t7 VSS 0.17683f
C52 a_n852_n600.n4 VSS 0.50935f
C53 a_n852_n600.n5 VSS 1.06678f
C54 a_n852_n600.n6 VSS 0.47127f
C55 a_n852_n600.n7 VSS 0.13801f
C56 a_n852_n600.t3 VSS 0.79551f
C57 VSS.t14 VSS 0.05059f
C58 VSS.t12 VSS 0.05f
C59 VSS.t10 VSS 0.05f
C60 VSS.t8 VSS 0.05059f
C61 VSS.t15 VSS 0.05059f
C62 VSS.t17 VSS 0.05f
C63 VSS.t16 VSS 0.05f
C64 VSS.t7 VSS 0.05059f
C65 VDD.t0 VSS 0.05671f
C66 VDD.t1 VSS 0.05398f
C67 VDD.n0 VSS 0.59177f
C68 VDD.t2 VSS 0.05671f
C69 VDD.t3 VSS 0.05398f
C70 VDD.n1 VSS 0.28869f
C71 OUT_P.t2 VSS 0.16523f
C72 OUT_P.t1 VSS 0.61832f
C73 OUT_P.t0 VSS 0.61832f
C74 OUT_P.n0 VSS 0.28348f
C75 OUT_N.t2 VSS 0.16934f
C76 OUT_N.t1 VSS 0.63992f
C77 OUT_N.t0 VSS 0.63992f
C78 OUT_N.n0 VSS 0.29054f
C79 VBIAS.n0 VSS 0.04298f
C80 VBIAS.n1 VSS 0.04566f
C81 VBIAS.n2 VSS 0.04566f
C82 VBIAS.n3 VSS 0.04298f
C83 VBIAS.n4 VSS 0.32404f
C84 VBIAS.n5 VSS 0.04298f
C85 VBIAS.n6 VSS 0.04566f
C86 VBIAS.n7 VSS 0.04566f
C87 VBIAS.n8 VSS 0.04298f
C88 VBIAS.n9 VSS 0.11427f
C89 VBIAS.n10 VSS 1.24925f
C90 IN_P.n0 VSS 0.17323f
C91 IN_N.n0 VSS 0.17323f
.ends

